US08957203B2
Preparation of intermediate 1-fluoro-4-propoxyisoquinoline
To a solution of 1-chloro-4-propoxyisoquinoline (1.1 g, 4.96 mmol) in DMSO (6 mL), added CsF (1.508 g, 9.92 mmol) and heated to 140° C. for 6 h. The reaction was diluted with ethylacteate and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using a gradient of 5-25% EtOAc/Hexanes. The product fractions were collected and the solvent removed under vacuum to give 700 mg of the desired product 1-fluoro-4-propoxyisoquinoline as a white solid. MS: MS m/z 206.17 (M++1).

reactant | 1-chloro-4-propoxyisoquinoline | 4.96 mmol, 1.1 g | ClC1=NC=C(C2=CC=CC=C12)OCCC | C12H12ClNO
reactant | CsF | 9.92 mmol, 1.508 g | [F-].[Cs+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | ethylacteate | C(C)OC(C)=O | C4H8O2
product | 1-fluoro-4-propoxyisoquinoline | 700 mg | FC1=NC=C(C2=CC=CC=C12)OCCC | C12H12FNO
